US08026234B2
Compound 166: 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylpiperidin-4-yl)benzamide
A mixture of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid (96.5 g, 0.216 mol), N-methyl-4-aminopiperidine (29.3 g, 0.259 mol), HOBt (35 g, 0.259 mol), diisopropylethylamine (45 mL, 0.259 mol) in anhydrous DMF (2.6 L) was cooled in ice bath under nitrogen. EDCI (49.8 g, 0.259 mol) was added and the resulting mixture was allowed to warm to room temperature and stirred overnight. The mixture was poured into ice water (8 L) and ethyl acetate (3 L) and separated. The aqueous phase was extracted with ethyl acetate (4 L×2) and all organic extracts were combined, washed with water, brine, dried over MgSO4 and concentrated. The resulting solid was triturated with diethyl ether to give 47 g of the title compound. DSC peak at 241.42° C.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | 0.216 mol, 96.5 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | N-methyl-4-aminopiperidine | 0.259 mol, 29.3 g | CN1CCC(CC1)N | C6H14N2
reactant | HOBt | 0.259 mol, 35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 0.259 mol, 45 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDCI | 0.259 mol, 49.8 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 2.6 L | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 3 L | C(C)(=O)OCC | C4H8O2
product | 4-(9-Cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-methylpiperidin-4-yl)benzamide | 47 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C)C=C2)OC | C27H35F2N7O3
